US05635197
(+)-(4aR)-(10bR)-4-methyl-8-(4-methoxy-2-benzothiazolylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (100 mg, 0.38 mmol), potassium carbonate (158 mg, 1.14 mmol), 2-chloro-4-methoxybenzothiazole (92 mg, 0.46 mmol) and 1.5 mL of anhydrous dimethylformamide, fitted with a reflux condenser, and the stirred mixture was heated at 60°, under nitrogen, for 18 h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (4×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 107 mg (66%) of the title compound as an off white solid. mp 200°-205°. FDMS: m/e=424. α[D]589 =+60.56 (c=0.96, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.38 mmol, 100 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)S)C)=O | C15H19NOS
reactant | potassium carbonate | 1.14 mmol, 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-methoxybenzothiazole | 0.46 mmol, 92 mg | ClC=1SC2=C(N1)C(=CC=C2)OC | C8H6ClNOS
reactant | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(4-methoxy-2-benzothiazolylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 107 mg, 66% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC=3SC1=C(N3)C(=CC=C1)OC)C)=O | C23H24N2O2S2
